US04091115
A solution of 24.46 g of 7-dimethylamino-5-oxo-6,7,8,9-tetrahydro [5H] benzocycloheptene in 488 ml of ethyl ether was added over 75 minutes under a nitrogen atmosphee at 0° to 5° C to a solution of 1.2 M of phenyl lithium in ethyl ether and the mixture was stirred for 2 hours at 0° to 5° C. 120 ml of an aqueous saturated ammonium chloride solution and then 100 ml of water were slowly added thereto at 0° to 15° C and the mixture was decanted. The ether phase was washed with water and dried to obtain 29.4 g of raw 7-dimethylamino-5ξ-phenyl-5ξ-hydroxy6,7,8,9-tetrahydro [5H] benzocycloheptene which was used as is for the next step. The product was a mixture of the 2 isomers with substitution in the 5-position.

reactant | 7-dimethylamino-5-oxo-6,7,8,9-tetrahydro [5H] benzocycloheptene | 24.46 g | CN(C1CC(C2=C(CC1)C=CC=C2)=O)C | C13H17NO
reactant | phenyl lithium | 1.2 M | C1(=CC=CC=C1)[Li]
reactant | ammonium chloride | 120 ml | [Cl-].[NH4+]
reactant | water | 100 ml | O | H2O
solvent | ethyl ether | 488 ml | C(C)OCC | C4H10O
product | 7-dimethylamino-5ξ-phenyl-5ξ-hydroxy6,7,8,9-tetrahydro [5H] benzocycloheptene | 29.4 g | CN(C1CC(C2=C(CC1)C=CC=C2)(O)C2=CC=CC=C2)C | C19H23NO
